US05447954
(c) 7-(2,4-Dichlorophenyl)-1-heptanol
A solution of 7-(2,4-dichlorophenyl)-6-hepten-1-ol (31.7 g, 122 mmol) in methanol (150 ml) was shaken under hydrogen (50 psi) with platinum oxide (1.65 g, added in portions) until no starting material could be detected by NMR spectroscopy. The catalyst was filtered off, and the solvent removed under vacuum. The residue was dissolved in ether, and the solution filtered through a pad of silica gel. The solvent was removed under vacuum to give the title compound (30.5 g, 96%) as an oil.

reactant | 7-(2,4-dichlorophenyl)-6-hepten-1-ol | 122 mmol, 31.7 g | ClC1=C(C=CC(=C1)Cl)C=CCCCCCO | C13H16Cl2O
solvent | methanol | 150 ml | CO | CH4O
catalyst | platinum oxide | 1.65 g | [Pt]=O
product | 7-(2,4-Dichlorophenyl)-1-heptanol | 30.5 g, 96% | ClC1=C(C=CC(=C1)Cl)CCCCCCCO | C13H18Cl2O
